US03994905
Gaseous HBr was passed into a solution of 3 g. of 3-pyridylmethyl-3-(4-nitrophenyl)urea in the monomethyl ether of ethyleneglycol. Ether was added to give a precipitate and after isolation, washing with ether and drying, 2.95 g. of white solid was obtained. This was a 76% yield of 1-(3-pyridylmethyl)-3-(4-nitrophenyl)urea hydrobromide.

reactant | HBr | Br | BrH
reactant | 3-pyridylmethyl-3-(4-nitrophenyl)urea | N1=CC(=CC=C1)CNC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C13H12N4O3
reactant | ethyleneglycol | C(CO)O | C2H6O2
reactant | Ether | CCOCC | C4H10O
solvent | monomethyl ether | COC | C2H6O
product | 1-(3-pyridylmethyl)-3-(4-nitrophenyl)urea hydrobromide | 76% yield | Br.N1=CC(=CC=C1)CNC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C13H12N4O3.BrH/c18-13(15-9-10-2-1-7-14-8-10)16-11-3-5-12(6-4-11)17(19)20;/h1-8H,9H2,(H2,15,16,18);1H
